US06489344B1
6-[(2-{[4-(4-bromo-2-chlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amino}ethyl)amino]pyridine-3-carbonitrile was prepared from 4-bromo-2-chlorolbenzoyl chloride using the general method for 6-[(2-{[4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amino)ethyl)amino]pyridine-3-carbonitrile.

reactant | 4-bromo-2-chlorolbenzoyl chloride | BrC=1C=C([ClH]C1)C1=CC=CC=C1C(=O)Cl | C11H7BrCl2O
reactant | 6-[(2-{[4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amino)ethyl)amino]pyridine-3-carbonitrile | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=C(N1)C)NCCNC1=CC=C(C=N1)C#N | C22H18Cl2N8
product | 6-[(2-{[4-(4-bromo-2-chlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amino}ethyl)amino]pyridine-3-carbonitrile | BrC1=CC(=C(C=C1)C1=NC(=NC=C1C=1NC=C(N1)C)NCCNC1=CC=C(C=N1)C#N)Cl | C22H18BrClN8
